US09370515B2
Preparation of 4-(3-(naphthalen-1-yl)imidazo[1,2-b]pyridazin-6-ylamino)butan-1-ol
To a solution of 6-chloro-3-(naphthalen-1-yl)imidazo[1,2-b]pyridazine (50 mg, 0.179 mmol, 1.0 equiv) in DMSO (2.0 mL) was added p-toluene sulfonic acid monohydrate (35 mg, 0.184 mmol, 1.0 equiv) and 4-aminobutan-1-ol (200 mg, 2.24 mmol, 12.5 equiv) and heated to 100° C. for 24 h. The reaction mixture was diluted with water and extracted with ethyl acetate. Purification by column chromatography using 5% methanol in dichloromethane elution gave 30 mg of a white solid, 50%.

reactant | 6-chloro-3-(naphthalen-1-yl)imidazo[1,2-b]pyridazine | 0.179 mmol, 50 mg, 1.0 equiv | ClC=1C=CC=2N(N1)C(=CN2)C2=CC=CC1=CC=CC=C21 | C16H10ClN3
reactant | p-toluene sulfonic acid monohydrate | 0.184 mmol, 35 mg, 1.0 equiv | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 4-aminobutan-1-ol | 2.24 mmol, 200 mg, 12.5 equiv | NCCCCO | C4H11NO
solvent | DMSO | 2.0 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(3-(naphthalen-1-yl)imidazo[1,2-b]pyridazin-6-ylamino)butan-1-ol | 30 mg | C1(=CC=CC2=CC=CC=C12)C1=CN=C2N1N=C(C=C2)NCCCCO | C20H20N4O
